US06982348B2
N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((3-(trifluoromethyl)phenyl)methyl)ethyl)cyclohexanecarboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in ethyl acetate (15 ml) were added cyclohexanecarbonyl chloride (288 ml, 2.15 mmol) and-saturated aqueous sodium hydrogen carbonate (15 ml) and the mixture was stirred at room temperature for 3 hrs. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (532 mg, 87%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)C(F)(F)F | C16H15F4NO
reactant | cyclohexanecarbonyl chloride | 2.15 mmol, 288 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydrogen carbonate | 15 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((3-(trifluoromethyl)phenyl)methyl)ethyl)cyclohexanecarboxamide | 532 mg, 87% | FC1=CC=C(C=C1)C(C(CC1=CC(=CC=C1)C(F)(F)F)NC(=O)C1CCCCC1)O | C23H25F4NO2
